US07781463B2
4-Benzyl-2-ethyl-5-oxo-1,2,4-thiadiazolidine-3-thione (Compound 10)
Reagents: Benzyl isothiocyanate (0.86 ml, 6.5 mmol), 35% HCl (3.1 ml), KMnO4 (0.5 g), ethyl isothiocyanate (0.57 ml, 6.5 mmol).

reactant | Benzyl isothiocyanate | 6.5 mmol, 0.86 ml | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | HCl | 3.1 ml | Cl | ClH
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | ethyl isothiocyanate | 6.5 mmol, 0.57 ml | C(C)N=C=S | C3H5NS
product | 4-Benzyl-2-ethyl-5-oxo-1,2,4-thiadiazolidine-3-thione | C(C1=CC=CC=C1)N1C(N(SC1=O)CC)=S | C11H12N2OS2
